US07169761B2
10% aqueous solution of sodiumhydroxide (5.0 ml) was added dropwise to a solution of methyl 2-(4-ethoxy-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(acetyloxy)-6-[(acetyloxy) methyl]tetrahydro-2H-pyran-2-yl]benzyl)azulene-1-carboxylate (0.58 g) in methanol (5.0 ml) at room temperature. The mixture was stirred for 30 minutes and refluxed with heating for further six hours. After cooling with ice, the reaction mixture was neutralized by adding 10% aqueous solution of hydrochloric acid. The neutralized product was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain 2-(4-ethoxy-3-[(2S,3R,4R,5S,6R)-3,4,5-tris(acetyloxy)-6-[(acetyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzyl)azulene-1-carboxylic acid (0.4 g).

reactant | sodiumhydroxide | 5.0 ml | [OH-].[Na+]
reactant | methyl 2-(4-ethoxy-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(acetyloxy)-6-[(acetyloxy) methyl]tetrahydro-2H-pyran-2-yl]benzyl)azulene-1-carboxylate | 0.58 g | C(C)OC1=C(C=C(CC2=C(C3=CC=CC=CC3=C2)C(=O)OC)C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)OC(C)=O)COC(C)=O | C35H38O12
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5.0 ml | CO | CH4O
product | 2-(4-ethoxy-3-[(2S,3R,4R,5S,6R)-3,4,5-tris(acetyloxy)-6-[(acetyloxy)methyl]tetrahydro-2H-pyran-2-yl]benzyl)azulene-1-carboxylic acid | 0.4 g | C(C)OC1=C(C=C(CC2=C(C3=CC=CC=CC3=C2)C(=O)O)C=C1)[C@@H]1O[C@@H]([C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)COC(C)=O | C34H36O12
